US04698352
In 10 ml of N,N-dimethylformamide was dissolved 2.0 g of methyl 5-(3-methyl-4-dimethylaminophenyl)-3-oxo-4-pentenoate, and 1.1 g of N,N-dimethylformamidodimethylacetal was added to the resulting solution, after which they were reacted at 70° C. for 1.5 hours. To the reaction mixture was then added 1.0 g of p-fluoroaniline at 70° C., and they were reacted at 80° C. for 2 hours and further at 140° C. for 3 hours. After completion of the reaction, the reaction mixture was cooled to room temperature and the solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform) to obtain an oily substance. This oily substance was dissolved in 30 ml of dioxane, and to this solution was added dropwise a solution of 2.1 g of 2,3-dichloro-5,6-dicyano-p-benzoquinone in 10 ml of benzene at 80° C. Thereafter, the mixture was subjected to reaction at the same temperature for 30 minutes and the solvent was removed by distillation under reduced pressure. The residue was suspended in 50 ml of chloroform and 50 ml of water, and after adjusting this suspension to a pH 7.5 with sodium hydrogencarbonate, the organic layer was separated, washed successively with 10 ml of water and 20 ml of a saturated aqueous solution of sodium chloride and then dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 1.8 g of methyl 1-(4-fluorophenyl)-6-(3-methyl-4-dimethylaminophenyl)-4-oxo-1,4-dihydronicotinate having a melting point of 217°-220° C.

reactant | methyl 5-(3-methyl-4-dimethylaminophenyl)-3-oxo-4-pentenoate | 2.0 g | CC=1C=C(C=CC1N(C)C)C=CC(CC(=O)OC)=O | C15H19NO3
reactant | p-fluoroaniline | 1.0 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 2.1 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | methyl 1-(4-fluorophenyl)-6-(3-methyl-4-dimethylaminophenyl)-4-oxo-1,4-dihydronicotinate | 1.8 g | FC1=CC=C(C=C1)N1C=C(C(=O)OC)C(C=C1C1=CC(=C(C=C1)N(C)C)C)=O | C22H21FN2O3
